US05763450
A suspension of 2.4 g of ethyl 1-ethyl-7-iodo-4-oxo-1,4-dihydro-quinoline-3-carboxylate (Example 13 g)) in 20 ml of ethanol and 6 ml of water is treated at 0° with 325 mg of lithium hydroxide monohydrate. After 3 hrs. the reaction mixture is acidified with 25% aqueous hydrochloric acid. The precipitated substance is filtered off under suction, washed with 20 ml of water, 20 ml of ethanol and 20 ml of ether and dried. 2.1 g (94%) of 1-ethyl-7-iodo-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid are obtained as a colourless solid. M.p. 237°-238°.

reactant | ethyl 1-ethyl-7-iodo-4-oxo-1,4-dihydro-quinoline-3-carboxylate | 2.4 g | C(C)N1C=C(C(C2=CC=C(C=C12)I)=O)C(=O)OCC | C14H14INO3
reactant | water | 6 ml | O | H2O
reactant | lithium hydroxide monohydrate | 325 mg | O.[OH-].[Li+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 1-ethyl-7-iodo-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid | 2.1 g, 94% | C(C)N1C=C(C(C2=CC=C(C=C12)I)=O)C(=O)O | C12H10INO3
